US07550478B2
7-[(1S)-1-methoxyethyl]-3-(1-methyl-1H-pyrazol-4-yl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (Compound 344)
7-[(1S)-1-hydroxyethyl]-3-(1-methyl-1H-pyrazol-4-yl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (7 mg, 0.02 mmol) was dissolved in 1 mL of tetrahydrofuran. Sodium hydride (10 mg of 60% dispersion in oil) was added and the reaction was stirred at room temperature for 2 hours. Methyl iodide (26 μL, 0.42 mmol) was added and the reaction was stirred an additional 3 hours. The reaction was then poured into a mixture of ethyl acetate and saturated aqueous ammonium chloride. The aqueous layer was extracted twice with ethyl acetate. The combined organics were dried over magnesium sulfate, filtered, concentrated in vacuo, and purified via reverse phase HPLC (10-100% acetonitrile/water gradient, 0.05% trifluoroacetic acid modifier) to afford the title compound. 1H NMR and LRMS data matched 7-[(1R)-1-methoxyethyl]-3-(1-methyl-1H-pyrazol-4-yl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one.

reactant | 7-[(1S)-1-hydroxyethyl]-3-(1-methyl-1H-pyrazol-4-yl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 0.02 mmol, 7 mg | O[C@@H](C)C=1C=CC2=C(C(C=3C(=NC=C(C3)C=3C=NN(C3)C)C=C2)=O)C1 | C20H17N3O2
reactant | Sodium hydride | 10 mg | [H-].[Na+]
reactant | Methyl iodide | 0.42 mmol, 26 μL | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[(1S)-1-methoxyethyl]-3-(1-methyl-1H-pyrazol-4-yl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | CO[C@@H](C)C=1C=CC2=C(C(C=3C(=NC=C(C3)C=3C=NN(C3)C)C=C2)=O)C1 | C21H19N3O2
